US05856503
17.55 g of [4-[6-(allyl-methyl-amino)-hexyloxy]-2-fluoro-phenyl]-(4-bromo-phenyl)-methanone are boiled under reflux with 50.7 ml of 4-methoxybenzylamine and 6.5 g of potassium carbonate in 600 ml of toluene for 23 hrs. After filtration, evaporation and purification over silica gel with methylene chloride/methanol (2.5% to 10%) there are obtained 17.43 g of [4-[6-(allyl-methyl-amino)-hexyloxy]-2-[(4-methoxy-benzyl)amino]-phenyl]-(4-bromo-phenyl)-methanone. A solution of this material in 200 ml of trifluoroacetic acid is stirred at room temperature for 45 hrs., evaporated and converted into the free base with methylene chloride/saturated sodium bicarbonate solution. After purification over silica gel with methylene chloride/methanol (9:1) there are obtained 13.23 g of [2-amino-4-[6-(allyl-methyl-amino)-hexyloxy]-phenyl]-(4-bromo-phenyl)-methanone, m.p. of the fumarate 78° C.(decomposition).

reactant | [4-[6-(allyl-methyl-amino)-hexyloxy]-2-fluoro-phenyl]-(4-bromo-phenyl)-methanone | 17.55 g | C(C=C)N(CCCCCCOC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)Br)F)C | C23H27BrFNO2
reactant | 4-methoxybenzylamine | 50.7 ml | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | [4-[6-(allyl-methyl-amino)-hexyloxy]-2-[(4-methoxy-benzyl)amino]-phenyl]-(4-bromo-phenyl)-methanone | 17.43 g | C(C=C)N(CCCCCCOC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)Br)NCC1=CC=C(C=C1)OC)C | C31H37BrN2O3
